US04381393
A mixture of 6.2 g of 4-(bromomethyl)-1,3-dihydro-5-(4-methoxybenzoyl)-2H-imidazol-2-one, 5.0 g of 1-(2-methylphenyl)piperazine dihydrochloride and 5.4 g of potassium carbonate in 100 ml of ethanol is stirred at room temperature for 24 hours. Water is added to the reaction mixture and the precipitate which forms is separated by filtration. The solid is then suspended in 2-propanol, 1 equivalent of hydrochloric acid is added, and the resulting solid is separated and recrystallized from 2-propanol/water to give 1,3-dihydro-4-(4-methoxybenzoyl)-5-[[4-(2-methylphenyl)-1-piperazinyl]methyl]-2H-imidazol-2-one hydrochloride melting at about 223°-225° C. with decomposition.

reactant | 4-(bromomethyl)-1,3-dihydro-5-(4-methoxybenzoyl)-2H-imidazol-2-one | 6.2 g | BrCC=1NC(NC1C(C1=CC=C(C=C1)OC)=O)=O | C12H11BrN2O3
reactant | 1-(2-methylphenyl)piperazine dihydrochloride | 5.0 g | Cl.Cl.CC1=C(C=CC=C1)N1CCNCC1
reactant | potassium carbonate | 5.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1 equivalent | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | Water | O | H2O
product | 1,3-dihydro-4-(4-methoxybenzoyl)-5-[[4-(2-methylphenyl)-1-piperazinyl]methyl]-2H-imidazol-2-one hydrochloride | Cl.COC1=CC=C(C(=O)C=2NC(NC2CN2CCN(CC2)C2=C(C=CC=C2)C)=O)C=C1 | InChI=1S/C23H26N4O3.ClH/c1-16-5-3-4-6-20(16)27-13-11-26(12-14-27)15-19-21(25-23(29)24-19)22(28)17-7-9-18(30-2)10-8-17;/h3-10H,11-15H2,1-2H3,(H2,24,25,29);1H
